US08957049B2
4-Bromo-iodobenzene (240 mg, 0.8 mmol, 1.2 eq.), 1-benzylpyrazole-4-boronic acid pinacol ester (200 mg, 0.7 mmol), potassium acetate (70 mg, 1 eq.), Pd(dppf)Cl2 (70 mg, 0.1 eq.), and Cs2CO3 (700 mg, 3.0 eq.) in DMSO (5 mL) were heated under argon at 80° C. during 1 h. The reaction mixture was extracted from water into diethyl ether, dried over Na2SO4, concentrated, and chromatographed on silica gel (5→10% EtOAc/hexanes) to give 1-benzyl-4-(4-bromophenyl)pyrazole (218 mg, 99%).

reactant | 4-Bromo-iodobenzene | 0.8 mmol, 240 mg, 1.2 eq. | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | 1-benzylpyrazole-4-boronic acid pinacol ester | 0.7 mmol, 200 mg | C(C1=CC=CC=C1)N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C16H21BN2O2
reactant | potassium acetate | 70 mg, 1 eq. | C(C)(=O)[O-].[K+]
reactant | Cs2CO3 | 700 mg, 3.0 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 70 mg, 0.1 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-benzyl-4-(4-bromophenyl)pyrazole | 218 mg, 99% | C(C1=CC=CC=C1)N1N=CC(=C1)C1=CC=C(C=C1)Br | C16H13BrN2
